US04515786
Methyl 3α-acetoxy-11α-cyclohexylamino-2β-methoxy-5α-androstane-17β-carboxylate
Methyl 11α-cyclohexylamino-3α-hydroxy-5α-androstane-17β-carboxylate (740 mg) in chloroform (8 ml) containing dry PTSA (640 mg) was stirred for 20 min then treated with acetic anhyride (1.9 ml) and left for 20 h. The reaction mixture was diluted with ethanol and evaporated to give an oil. This was dissolved in ethyl acetate, washed with dilute ammonia solution (2×) and water (1×), dried and evaporated to give a foam. This was purified by preparative t.l.c. in chloroform/methanol (9:1) to give a foam which was crystallised from acetonitrile to give the title compound, m.p. 87°-89° [α]D +16.9°.

reactant | Methyl 11α-cyclohexylamino-3α-hydroxy-5α-androstane-17β-carboxylate | 740 mg | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)O)C | C27H45NO3
reactant | PTSA | 640 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3α-acetoxy-11α-cyclohexylamino-2β-methoxy-5α-androstane-17β-carboxylate | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1OC)C)NC1CCCCC1)C(=O)OC | C30H49NO5
